US07220856B2
Preparation of 4-(7-Chloro-4-quinolinyl)-N-(2,3-dimethylcyclohexyl)-1-piperazinecarboxamide
As described for example 78, 2,3-dimethyl-cyclohexanamine (154 mg, 1.21 mmol), 4-nitrophenyl chloroformate (244 mg, 1.21 mmol), diisopropyl(ethyl)amine (209 mg, 1.62 mmol), and 7-chloro-4-(piperazin-1-yl)quinoline (200 mg, 0.81 mmol) are reacted affording the title product after flash chromatography with CH2Cl2-MeOH. 1H NMR (DSMO-d6) δ 0.7–0.9 (m, 7H), 1.13–1.92 (m, 8H), 3.2 (m, 1H), 3.6 (br. s, 4H), 3.9 (br. s, 4H), 7.2 (m, 1H), 7.7 (m, 1H), 8.0 (s, 1H), 8.2 (m, 1H), 8.6 (m, 1H).

reactant | 2,3-dimethyl-cyclohexanamine | 1.21 mmol, 154 mg | CC1C(CCCC1C)N | C8H17N
reactant | 4-nitrophenyl chloroformate | 1.21 mmol, 244 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | diisopropyl(ethyl)amine | 1.62 mmol, 209 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 7-chloro-4-(piperazin-1-yl)quinoline | 0.81 mmol, 200 mg | ClC1=CC=C2C(=CC=NC2=C1)N1CCNCC1 | C13H14ClN3
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 4-(7-Chloro-4-quinolinyl)-N-(2,3-dimethylcyclohexyl)-1-piperazinecarboxamide | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=O)NC1C(C(CCC1)C)C | C22H29ClN4O
